US06046192
2-[(2S)-2-[[(2R)-2-Hydroxy-2-(4-hydroxy-phenyl)ethyl]-amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide (210 mg) was suspended in ethanol (10.5 ml), and 1N hydrochloric acid (546 μl) was added to the suspension and the mixture was dissolved by heating. After cooling, collection by filtration of the precipitated crystals gave 2-[(2S)-2-[[(2R)-2-hydroxy-2-(4-hydroxyphenyl)ethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide hydrochloride (100 mg) having a melting point of 165-168° C.

reactant | 2-[(2S)-2-[[(2R)-2-Hydroxy-2-(4-hydroxy-phenyl)ethyl]-amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide | 210 mg | O[C@@H](CN[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)N(C)C)C1=CC=C(C=C1)O | C22H28N2O4
reactant | hydrochloric acid | 1N, 546 μl | Cl | ClH
solvent | ethanol | 10.5 ml | C(C)O | C2H6O
product | 2-[(2S)-2-[[(2R)-2-hydroxy-2-(4-hydroxyphenyl)ethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide hydrochloride | 100 mg | Cl.O[C@@H](CN[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)N(C)C)C1=CC=C(C=C1)O | InChI=1S/C22H28N2O4.ClH/c1-24(2)22(27)14-28-20-10-6-15-3-7-18(11-17(15)12-20)23-13-21(26)16-4-8-19(25)9-5-16;/h4-6,8-10,12,18,21,23,25-26H,3,7,11,13-14H2,1-2H3;1H/t18-,21-;/m0./s1
